**************************************************************************************
* A test circuit to measure the error between a reference signal and a measured signal
* using the ERROR measure, in .AC mode.  The FILE= qualifier is tested for .PRN,
* .CSV and comma-delimited .PRN formats.  It is not tested for .CSD format yet.
* 
* Also test that .MEAS is a synonym for .MEASURE.
*************************************************************************************** 

vsrc1  1a 0 AC 1 SIN(0 1 1)
rload1 1a 1b 0.1
cload1 1b 0 1

vsrc2  2a 0 AC 1 SIN(0 1 1)
rload2 2a 2b 0.2
cload2 2b 0 1

vsrc3  3a 0 AC 1 SIN(0 1 1)
rload3 3a 3b 0.3
cload3 3b 0 1

.print ac vm(1a) vm(1b) vm(2b) vm(3b) {-20*log10(vm(1b)/vm(1a))}
.AC lin 27 10 130

* These .AC lines will illustrate the problem with interpolating the measured points
* to the comparison file, when the measured data contains lower frequency data 
* (e.g., between 0 and 10 Hz) than the comparison data.
*.ac  lin 13 1 130
*.ac lin 13 9 130
*.ac lin 13 12 130

* Used to generate the comparison files
*.ac lin 10 10 100 
*.print ac FILE=ErrorTestRawDataAC.FD.prn vm(1a) vm(1b) vm(2b) vm(3b) {-20*log10(vm(1b)/vm(1a))} 

* Test with FILE= in .PRN format
* L1 Norms.  
.meas ac FitErrorPrnL1vm2b ERROR vm(2b) FILE=ErrorTestACRawData.FD.prn COMP_FUNCTION=L1NORM INDEPVARCOL=1 DEPVARCOL=3
.measure ac FitErrorPrnL1vm3b ERROR vm(3b) FILE=ErrorTestACRawData.FD.prn COMP_FUNCTION=l1norm INDEPVARCOL=1 DEPVARCOL=4

*L2 Norms, which is also the default. Also test lower-case for FILE, COMP_FUNCTION, INDEPVARCOL and DEPVARCOL
.MEAS ac FitErrorPrnL2vm2b error vm(2b) file=ErrorTestACRawData.FD.prn comp_function=L2NORM indepvarcol=1 depvarcol=3
.MEASURE ac FitErrorPrnL2vm3b error vm(3b) file=ErrorTestACRawData.FD.prn comp_function=l2norm indepvarcol=1 depvarcol=4

* Not specifying COMP_FUNCTION, or asking for "BOGONORM" should default to the L2NORM.
* So, these two measures should give the same results as the L2NORM measures above.
.measure ac FitErrorPrnBogoVm2b error vm(2b) file=ErrorTestACRawData.FD.prn comp_function=BOGONORM indepvarcol=1 depvarcol=3
.measure ac FitErrorPrnDefaultVm3b error vm(3b) file=ErrorTestACRawData.FD.prn indepvarcol=1 depvarcol=4

*INF NORMS
.measure ac FitErrorPrnInfVm2b error vm(2b) file=ErrorTestACRawData.FD.prn comp_function=INFNORM indepvarcol=1 depvarcol=3
.measure ac FitErrorPrnInfVm3b error vm(3b) file=ErrorTestACRawData.FD.prn comp_function=infnorm indepvarcol=1 depvarcol=4

* Test with FILE= in .CSD format.  These are all commented out for now.
* L1 Norms.  
*.measure ac FitErrorCsdL1vm2b ERROR vm(2b) FILE=ErrorTestACRawData.FD.csd COMP_FUNCTION=L1NORM INDEPVARCOL=0 DEPVARCOL=2
*.measure ac FitErrorCsdL1vm3b ERROR vm(3b) FILE=ErrorTestACRawData.FD.csd COMP_FUNCTION=l1norm INDEPVARCOL=0 DEPVARCOL=3

*L2 Norms, which is also the default. Also test lower-case for FILE, COMP_FUNCTION, INDEPVARCOL and DEPVARCOL
*.measure ac FitErrorCsdL2vm2b error vm(2b) file=ErrorTestACRawData.FD.csd comp_function=L2NORM indepvarcol=0 depvarcol=2
*.measure ac FitErrorCsdL2vm3b error vm(3b) file=ErrorTestACRawData.FD.csd comp_function=l2norm indepvarcol=0 depvarcol=3

* Not specifying COMP_FUNCTION, or asking for "BOGONORM" should default to the L2NORM.
* So, these two measures should give the same results as the L2NORM measures above.
*.measure ac FitErrorCsdBogoVm2b error vm(2b) file=ErrorTestACRawData.FD.csd comp_function=BOGONORM indepvarcol=0 depvarcol=2
*.measure ac FitErrorCsdDefaultVm3b error vm(3b) file=ErrorTestACRawData..FD.csd indepvarcol=0 depvarcol=3

*INF NORMS
*.measure ac FitErrorCsdInfVm2b error vm(2b) file=ErrorTestACRawData.FD.csd comp_function=INFNORM indepvarcol=0 depvarcol=2
*.measure ac FitErrorCsdInfVM3b error vm(3b) file=ErrorTestACRawData.FD.csd comp_function=infnorm indepvarcol=0 depvarcol=3

* Test with FILE= in .CSV format
* L1 Norms.  
.measure ac FitErrorCsvL1vm2b ERROR vm(2b) FILE=ErrorTestACRawData.FD.csv COMP_FUNCTION=L1NORM INDEPVARCOL=0 DEPVARCOL=2
.measure ac FitErrorCsvL1vm3b ERROR vm(3b) FILE=ErrorTestACRawData.FD.csv COMP_FUNCTION=l1norm INDEPVARCOL=0 DEPVARCOL=3

*L2 Norms, which is also the default. Also test lower-case for FILE, COMP_FUNCTION, INDEPVARCOL and DEPVARCOL
.measure ac FitErrorCsvL2vm2b error vm(2b) file=ErrorTestACRawData.FD.csv comp_function=L2NORM indepvarcol=0 depvarcol=2
.measure ac FitErrorCsvL2vm3b error vm(3b) file=ErrorTestACRawData.FD.csv comp_function=l2norm indepvarcol=0 depvarcol=3

* Not specifying COMP_FUNCTION, or asking for "BOGONORM" should default to the L2NORM.
* So, these two measures should give the same results as the L2NORM measures above.
.measure ac FitErrorCsvBogoVm2b error vm(2b) file=ErrorTestACRawData.FD.csv comp_function=BOGONORM indepvarcol=0 depvarcol=2
.measure ac FitErrorCsvDefaultVm3b error vm(3b) file=ErrorTestACRawData.FD.csv indepvarcol=0 depvarcol=3

*INF NORMS
.measure ac FitErrorCsvInfVm2b error vm(2b) file=ErrorTestACRawData.FD.csv comp_function=INFNORM indepvarcol=0 depvarcol=2
.measure ac FitErrorCsvInfVm3b error vm(3b) file=ErrorTestACRawData.FD.csv comp_function=infnorm indepvarcol=0 depvarcol=3

* Test with FILE= in Comma-Delimited .PRN format
* L1 Norms.  
.measure ac FitErrorCDPrnL1vm2b ERROR vm(2b) FILE=ErrorTestACCommaDelimRawData.FD.prn COMP_FUNCTION=L1NORM INDEPVARCOL=1 DEPVARCOL=3
.measure ac FitErrorCDPrnL1vm3b ERROR vm(3b) FILE=ErrorTestACCommaDelimRawData.FD.prn COMP_FUNCTION=l1norm INDEPVARCOL=1 DEPVARCOL=4

*L2 Norms, which is also the default. Also test lower-case for FILE, COMP_FUNCTION, INDEPVARCOL and DEPVARCOL
.measure ac FitErrorCDPrnL2vm2b error vm(2b) file=ErrorTestACCommaDelimRawData.FD.prn comp_function=L2NORM indepvarcol=1 depvarcol=3
.measure ac FitErrorCDPrnL2vm3b error vm(3b) file=ErrorTestACCommaDelimRawData.FD.prn comp_function=l2norm indepvarcol=1 depvarcol=4

* Not specifying COMP_FUNCTION, or asking for "BOGONORM" should default to the L2NORM.
* So, these two measures should give the same results as the L2NORM measures above.
.measure ac FitErrorCDPrnBogoVm2b error vm(2b) file=ErrorTestACCommaDelimRawData.FD.prn comp_function=BOGONORM indepvarcol=1 depvarcol=3
.measure ac FitErrorCDPrnDefaultVm3b error vm(3b) file=ErrorTestACCommaDelimRawData.FD.prn indepvarcol=1 depvarcol=4

*INF NORMS
.measure ac FitErrorCDPrnInfVm2b error vm(2b) file=ErrorTestACCommaDelimRawData.FD.prn comp_function=INFNORM indepvarcol=1 depvarcol=3
.measure ac FitErrorCDPrnInfVm3b error vm(3b) file=ErrorTestACCommaDelimRawData.FD.prn comp_function=infnorm indepvarcol=1 depvarcol=4


*****************************************************
* Original test developed by Rich Schiek.  This is
* commented out now.
*****************************************************
*vsrc 1 0 AC 10 sin(0 10 10 0 0 0 )

*cload 1 0 2e-6
*lload 1 2 1e-4
*cload2 2 0 2e-6
*rload 1 0 1000

*.ac dec 10 10 1e9
*.print ac vm(2) vm(1) {-20*log10(vm(2)/vm(1))}
*.measure ac FitError error {vm(2)} file=ErrorTestACRawData.cir.FD.prn comp_function=l2norm indepvarcol=1 depvarcol=2
*.measure ac FitError error {-20*log(vm(2)/vm(1))} file=ErrorTestACRawData.cir.FD.prn comp_function=l2norm indepvarcol=1 depvarcol=2

.end


