* Test AC mode support for MAX, MIN and PP measures.
* To be conservative, there are subtests for each
* valid operator (V, VR, VI, VP, VM and VDB) for
* each measure type. Expressions are also tested.
*
* See SON Bug 1140 for more details
*****************************************************

* Trivial high-pass filter (V-C-R) circuit
R1 b 0 2
C1 a b 1u
V1 a 0 DC 0V AC 1

.print AC vr(b) vi(b) vm(b) vp(b) vdb(b)
.ac dec 5 100Hz 1e6
.STEP R1 0.5 2 1.5

* MAX
.MEASURE AC maxvb max v(b)
.MEASURE AC maxvmb max vm(b)
.MEASURE AC maxvrb max vr(b)
.MEASURE AC maxvib max vi(b)
.MEASURE AC maxvpb max vp(b)
.MEASURE AC maxvdbb max vdb(b)

* MIN
.MEASURE AC minvb min v(b)
.MEASURE AC minvmb min vm(b)
.MEASURE AC minvrb min vr(b)
.MEASURE AC minvib min vi(b)
.MEASURE AC minvpb min vp(b)
.MEASURE AC minvdbb min vdb(b)

* PP
.MEASURE AC ppvb pp v(b)
.MEASURE AC ppvmb pp vm(b)
.MEASURE AC ppvrb pp vr(b)
.MEASURE AC ppvib pp vi(b)
.MEASURE AC ppvpb pp vp(b)
.MEASURE AC ppvdbb pp vdb(b)

* Use expressions
.MEASURE AC maxvrbExp max {1+vr(b)}
.MEASURE AC maxvibExp max {1+vi(b)}
.MEASURE AC minvrbExp min {1+vr(b)}
.MEASURE AC minvibExp min {1+vi(b)}
.MEASURE AC ppvrbExp pp {1+vr(b)}
.MEASURE AC ppvriExp pp {1+vi(b)}

* add FROM-TO
.MEASURE AC maxvmbFromTo max vm(b) FROM=1e3 TO=1e5
.MEASURE AC minvmbFromTo min vm(b) FROM=1e3 TO=1e5
.MEASURE AC ppvmbFromTo pp vm(b) FROM=1e3 TO=1e5

* Tests should fail since the FROM-T0 windows have various problems.
.measure ac maxFromToFail1 max v(b) FROM=1e7 TO=1e8
.measure ac maxFromToFail2 max vr(b) FROM=1e6 TO=1e2
.measure ac minFromToFail1 min vi(b) TO=-1e6
.measure ac minFromToFail2 min vm(b) FROM=1e7 TO=1e8
.measure ac ppFromToFail1 pp vp(b) FROM=1e7 TO=1e8

* Signifies end of test. .sh file looks for a measure named lastMeasure.  
* This is needed for compatibility for testing with a verbose build, which 
* is often used by the Xyce developers.
.measure ac lastMeasure max vm(b) 

.end

